US06331640B1
3-Amino-4,4,4-trifluorobutyric acid (10 g, 63.7 mmol) was added to a solution of sodium hydrogen carbonate (6.95 g, 82.8 mmol) in water (100 mL). A solution of 1-[[(9H-fluoren-9-ylmethoxy)carbonyl]oxy-2,5-pyrrolidinedione (Fmoc-OSu; 25.78 g, 76.4 mmol) in tetrahydrofuran (200 mL) was added. The solution was stirred at room temperature for 19 h and then acidified to pH 1 with 3 M HCl (250 mL). The mixture was extracted with ethyl acetate (250 mL then 100 mL) and the combined organic layers were washed with saturated brine (3×100 mL), dried (Na2SO4), filtered and concentrated to approximately 200 mL. Crystallization occurred on concentration. The mixture was allowed to stand for 10 min, then the solid was filtered off, washed with ethyl acetate and dried in a vacuum oven at 50° C. to give 3-[N-[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-4,4,4-trifluorobutyric acid (11.47 g) as a white solid, mp 187-189° C. The mother liquor was concentrated to 80 mL. Crystallization occurred on concentration. The solid was filtered off, washed with ethyl acetate and dried in a vacuum oven at 50° C. to give a second batch of product (4.69 g). The overall yield was16.16 g (67%).

reactant | 3-Amino-4,4,4-trifluorobutyric acid | 63.7 mmol, 10 g | NC(CC(=O)O)C(F)(F)F | C4H6F3NO2
reactant | sodium hydrogen carbonate | 82.8 mmol, 6.95 g | C(O)([O-])=O.[Na+]
reactant | [(9H-fluoren-9-ylmethoxy)carbonyl]oxy-2,5-pyrrolidinedione | 76.4 mmol, 25.78 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | HCl | 3 M, 250 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-[N-[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-4,4,4-trifluorobutyric acid | 11.47 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC(=O)O)C(F)(F)F | C19H16F3NO4
